US03991202
0.2 Mole of gaseous hydrogen chloride is dissolved in 32 parts of methanol and to this solution are added 12 parts of 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-phenethylimidazolium bromide. The resulting mixture is heated slowly to reflux temperature and stirred at reflux for 1.25 hours. The mixture is then cooled and evaporated, and the residue is triturated in n-hexane. The latter is decanted and the residual oil is boiled in methyl ethyl ketone, whereupon the desired product is precipitated as a solid. The latter is filtered off and crystallized from dioxane to obtain a purified 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-phenethylimidazolium chloride product, m.p. 159.5° C.

reactant | hydrogen chloride | 0.2 Mole | Cl | ClH
reactant | 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-phenethylimidazolium bromide | [Br-].ClC1=C(C(C[N+]2=CN(C=C2)CCC2=CC=CC=C2)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl
solvent | methanol | CO | CH4O
product | 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-phenethylimidazolium chloride | [Cl-].ClC1=C(C(C[N+]2=CN(C=C2)CCC2=CC=CC=C2)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | InChI=1S/C26H23Cl4N2O.ClH/c27-21-7-6-20(24(29)14-21)17-33-26(23-9-8-22(28)15-25(23)30)16-32-13-12-31(18-32)11-10-19-4-2-1-3-5-19;/h1-9,12-15,18,26H,10-11,16-17H2;1H/q+1;/p-1
